US07772226B2
Ethyl [7-(2-butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purin-2-yloxy]acetate trifluoroacetate and [7-(2-butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purin-2-yloxy]acetic acid trifluoroacetate [MS m/e (ESI) 361 (MH+-CF3COOH)] were obtained by treating t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate using ethyl 2-hydroxyacetate, instead of ethanol, by the same method as used in Example 11. Ethyl [7-(2-butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purin-2-yloxy]acetate trifluoroacetate was purified by chromatography using NH-silica gel. Thus, ethyl [7-(2-butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purin-2-yloxy]acetate [1H-NMR (CDCl3) δ 1.29 (t, J=7.22 Hz, 3H) 1.83 (t, J=2.4 Hz, 3H) 3.02-3.06 (m, 4H) 3.38-3.41 (m, 4H) 3.55 (s, 3H) 4.22 (q, J=7.2 Hz, 2H) 4.90 (q, J=2.4 Hz, 2H) 5.03 (s, 2H); MS m/e (ESI) 389 (MH+)] was obtained from the fraction eluted with ethyl acetate-methanol (20:1)

reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C19H25ClN6O3
reactant | ethyl 2-hydroxyacetate | OCC(=O)OCC | C4H8O3
solvent | ethanol | C(C)O | C2H6O
product | ethyl [7-(2-butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purin-2-yloxy]acetate | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)OCC(=O)OCC)N1CCNCC1 | C18H24N6O4
